US07781438B2
Preparation of 3-Amino-8-methoxy-naphthalene-2-carboxylic acid ethyl ester
Palladium-on-carbon (10%, 1.281 g, 1.204 mol, 0.1 equiv) was added under an atmosphere of argon to a solution of 8-methoxy-3-nitro-naphthalene-2-carboxylic acid ethyl ester (3.313 g, 12.04 mmol) in EtOH (50 ml). The atmosphere was replaced by hydrogen gas, and the mixture was stirred at room temperature for 3 hours (hydrogen balloon). The atmosphere was changed back to argon, the catalyst was filtered off and the filtrate was concentrated in vacuo to afford the title compound (2.820 g, 96%, inseparable 1:1.15 mixture of regioisomers A:B) of adequate purity for direct use in the next transformation. 1H NMR (400 MHz, CDCl3): δ=8.88 (s, 1H isomer B), 8.44 (s, 1H isomer A), 7.36 (s, 1H isomer A), 7.32-7.26 (m, 1H isomer A+1H isomer B), 6.91 (s, 1H isomer B), 6.73 (d, J=7.4 Hz, 1H isomer A), 6.50 (d, J=7.6 Hz, 1H isomer B), 4.41 (q, J=7.0 Hz, 2H isomer B), 4.40 (q, J=7.1 Hz, 2H isomer A), 3.97 (s, 3H isomer B), 3.96 (s, 3H isomer A), 1.44 (t, J=7.1 Hz, 3H isomer B), 1.44 (t, J=7.0 Hz, 3H isomer A). MS (ES+): 246 (M+H)+.

reactant | 8-methoxy-3-nitro-naphthalene-2-carboxylic acid ethyl ester | 12.04 mmol, 3.313 g | C(C)OC(=O)C1=CC2=C(C=CC=C2C=C1[N+](=O)[O-])OC | C14H13NO5
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 50 ml | CCO | C2H6O
catalyst | Palladium-on-carbon | 1.204 mol, 1.281 g, 0.1 equiv | [Pd] | Pd
product | 3-Amino-8-methoxy-naphthalene-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC2=C(C=CC=C2C=C1N)OC | C14H15NO3
